US07307075B2
4-[3-(4-Butyl-piperidin-1-yl)propyl]-6,8-dimethyl-4H-benzo[1,4]oxazin-3-one (81MF2237F)
4-(3-Chloropropyl)-6,8-dimethyl-4H-benzo[1,4]oxazin-3-one (81MF2237b) (0.96 g, 3.78 mmol), K2CO3 (1.05 g, 7.57 mmol), NaI (1.14 g, 7.57 mmol) and 4-butylpiperidine (0.56 g, 3.97 mmol) were mixed according to GP11. CC (SiO2; Heptane/EtOAc 10:1-4) gave the title compound (81MF2237F) (0.98 g, 72%). 1H NMR (CDCl3) δ 6.71 (s, 1H), 6.65 (s, 1H), 4.52 (s, 2H), 3.93 (t, J=7.2, 2H), 2.87 (d, J=11.2, 2 H), 2.36 (t, J=7.2 Hz, 2H), 2.27 (s, 3H), 2.18 (s, 3H), 1.81-1.89 (m, 4H), 1.65 (d, J=9.6 Hz, 2H), 1.28-1.17 (m, 9H), 0.87 (t, J=6-8 Hz, 3H); 13C NMR (CDCl3) δ 164.6, 141.4, 131.6, 128.3, 126.3, 126.1, 113.4, 67.8, 56.1, 54.3, 39.8, 36.4, 35.9, 32.7, 29.1, 25.0, 23.0, 21.1, 15.5, 14.2.

reactant | 4-(3-Chloropropyl)-6,8-dimethyl-4H-benzo[1,4]oxazin-3-one | 3.78 mmol, 0.96 g | ClCCCN1C(COC2=C1C=C(C=C2C)C)=O | C13H16ClNO2
reactant | K2CO3 | 7.57 mmol, 1.05 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 7.57 mmol, 1.14 g | [Na+].[I-]
reactant | 4-butylpiperidine | 3.97 mmol, 0.56 g | C(CCC)C1CCNCC1 | C9H19N
solvent | Heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 4-[3-(4-Butyl-piperidin-1-yl)propyl]-6,8-dimethyl-4H-benzo[1,4]oxazin-3-one | 0.98 g, 72% | C(CCC)C1CCN(CC1)CCCN1C(COC2=C1C=C(C=C2C)C)=O | C22H34N2O2
